US09340513B2
To a solution of DMAP (647 mg, 5.30 mmol), EDC (1016 mg, 5.30 mmol) and 4-tert-butoxy-3,3-dimethyl-4-oxobutanoic acid (663 mg, 3.18 mmol) (11) in Dichloromethane (10 mL) stirred at 20° C. for 30 min was added (E)-N-(1-(4-chlorophenyl)cyclopropyl)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)acrylamide (685 mg, 1.060 mmol). The reaction mixture was stirred at 20° C. for 2 h. The mixture was washed with saturated ammonium chloride, water, and saturated NaHCO3, water, and brine. The organic layer was dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by silica gel column eluting with Petrol ether/Ethyl acetate (5:1) to afford the product 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(4-chlorophenyl)cyclopropyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (480 mg, 0.542 mmol, 51.2%) as a light yellow solid.

reactant | EDC | 5.30 mmol, 1016 mg
reactant | 4-tert-butoxy-3,3-dimethyl-4-oxobutanoic acid | 3.18 mmol, 663 mg | C(C)(C)(C)OC(C(CC(=O)O)(C)C)=O | C10H18O4
reactant | (E)-N-(1-(4-chlorophenyl)cyclopropyl)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)acrylamide | 1.060 mmol, 685 mg | ClC1=CC=C(C=C1)C1(CC1)NC(\C=C\[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)=C(C(C2)=O)C(C)C)=O | C41H56ClNO3
catalyst | DMAP | 5.30 mmol, 647 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(4-chlorophenyl)cyclopropyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.542 mmol, 480 mg, 51.2% | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)NC5(CC5)C5=CC=C(C=C5)Cl)C)C)(C)C)C | C51H72ClNO6
